US07456164B2
1-methyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile
The title compound (80 mg, 76%) was prepared from 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile, formaldehyde and sodium triacetoxyborohydride similarly to the procedure used for example 54. 1H NMR (400 MHz, CD3OD) δ 1.81-1.85 (m, 4H), 1.97-2.15 (m, 6H), 2.37 (s, 3H), 2.45 (t, 2H), 2.58-2.62 (m, 4H), 2.68 (t, 2H), 2.99 (d, 2H), 4.04 (t, 2H), 6.96 (d, 2H), 7.42 (d, 2H). LRMS APCI+ m/z 328 [MH]+. Microanalysis: Found: C, 73.01; H, 8.94; N, 12.81%. C20H29N3O requires C, 73.36; H, 8.93; N, 12.83%.

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCNCC1)C#N | C19H27N3O
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-methyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | 80 mg, 76% | CN1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H29N3O
